### PR TITLE
[Merged by Bors] - fix: restore the algebraic instances on `UInt` types

### PR DESCRIPTION
**Pull request by eric-wieser**
These were deleted without comment in the 4.20.0 upgrade (https://github.com/leanprover-community/mathlib4/commit/7d6781bab0100467855789de1053ccabeed34520), presumably because they were annoying to fix.
This follows the advice in the comment to make a PR to restore them.

These should be much less fragile than before, as `rfl` is no longer used for any of the proofs about data defined elsewhere.
Some fragile theorems remain, but they can be upstreamed and then deleted.

[#lean4 > open scoped UInt64.CommRing @ 💬](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/open.20scoped.20UInt64.2ECommRing/near/531000387)

---

- [ ] depends on: #27581

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/UInt.lean [hunk 1]
```diff
@@ -30,73 +24,113 @@ version also interferes more with software-verification use-cases, which is reas
...
+
+      open $typeName (toBitVec_neg) in
+      @[simp, int_toBitVec]
+      protected theorem toBitVec_intCast (z : ℤ) :
+          (z : $typeName).toBitVec = z := by
+        obtain ⟨z, rfl | rfl⟩ := z.eq_nat_or_neg
+        · erw [intCast_ofNat]; rfl
+        · rw [intCast_neg, toBitVec_neg]
+          erw [intCast_ofNat]
+          simp
```
Comment (eric-wieser) [inline Mathlib/Data/UInt.lean]: These should be upstreamed, but that's out of scope for this PR. leanprover/lean4#9577 upstreams the first one.

File: Mathlib/Data/UInt.lean [hunk 2]
```diff
@@ -30,73 +24,113 @@ version also interferes more with software-verification use-cases, which is reas
...
+      @[simp, int_toBitVec]
+      protected theorem toBitVec_nsmul (n : ℕ) (a : $typeName) :
+          (n • a).toBitVec = n • a.toBitVec := rfl
+
+      instance : SMul ℤ $typeName where
+        smul z a := ofBitVec ⟨z • a.toFin⟩
+
+      @[simp, int_toBitVec]
+      protected theorem toBitVec_zsmul (z : ℤ) (a : $typeName) :
+          (z • a).toBitVec = z • a.toBitVec := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/UInt.lean]: I've just noticed these instances create diamonds. I'll remove them, which will mean this file creates no new data overall.

**Comment by kim-em** [comment]
bors merge

**Comment by eric-wieser** [comment]
@kim-em: I split out a dependent PR

**Comment by eric-wieser** [comment]
bors r-

Just in case

**Review by girving — APPROVED** [review]
Seems reasonable given that we're just uncommenting out some commented code (except for a nice two-line simplification).

File: Mathlib/Data/UInt.lean [hunk 3]
```diff
@@ -30,73 +24,119 @@ version also interferes more with software-verification use-cases, which is reas
...
---     namespace $typeName
-
---       instance : Pow $typeName ℕ where
---         pow a n := ofBitVec ⟨a.toFin ^ n⟩
-
---       instance : SMul ℕ $typeName where
---         smul n a := ofBitVec ⟨n • a.toFin⟩
-
---       instance : SMul ℤ $typeName where
---         smul z a := ofBitVec ⟨z • a.toFin⟩
```
Comment (eric-wieser) [inline Mathlib/Data/UInt.lean:49]: These now exist upstream so have not been restored

File: Mathlib/Data/UInt.lean [hunk 4]
```diff
@@ -30,73 +24,119 @@ version also interferes more with software-verification use-cases, which is reas
...
-
---       lemma neg_def (a : $typeName) : -a = ⟨⟨-a.toFin⟩⟩ := rfl
-
---       lemma nsmul_def (n : ℕ) (a : $typeName) : n • a = ⟨⟨n • a.toFin⟩⟩ := rfl
-
---       lemma zsmul_def (z : ℤ) (a : $typeName) : z • a = ⟨⟨z • a.toFin⟩⟩ := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/UInt.lean:55]: These (and the `_def`s below) aren't particularly useful lemmas, so I also didn't bother to restore them. Instead, I've provided the lemmas with `toBitVec` on the left.

**Review by TwoFX — APPROVED** [review]
bors r+
